US05464865
A mixture of 4-bromobenzaldehyde (3.7 g), triphenylphosphine (0.32 g), palladium(II) acetate (135 mg), and 3,3-dimethyl-1-butyne (4 ml) in triethylamine (20 ml) is thoroughly purged with nitrogen, then heated to 100° in a sealed tube under nitrogen for 2 hr. The mixture is cooled, and the precipitated triethylamine hydrobromide is removed by filtration. The filtrate is concentrated, and the residue dissolved in 3:1 dichloromethane-hexane and filtered through a 2-cm pad of silica gel. The filtrate is concentrated and vacuum-distilled to provide 4-(3,3-dimethyl-1-butynyl)benzaldehyde as a pale yellow solid (3.25 g, 86%).

reactant | 4-bromobenzaldehyde | 3.7 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | triphenylphosphine | 0.32 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3,3-dimethyl-1-butyne | 4 ml | CC(C#C)(C)C | C6H10
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium(II) acetate | 135 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(3,3-dimethyl-1-butynyl)benzaldehyde | 3.25 g, 86% | CC(C#CC1=CC=C(C=O)C=C1)(C)C | C13H14O
